parameters sky130_fd_pr__special_pfet_01v8_hvt__toxe_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__voff_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__nfactor_slope_spectre=0.0
subckt sky130_fd_pr__special_pfet_01v8_hvt (d g s b)
parameters l=1 w=1 nf=1.0 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
msky130_fd_pr__special_pfet_01v8_hvt (d g s b) m_sky130_fd_pr__special_pfet_01v8_hvt__model l=l w=w nf=nf ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
@if l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.6e-7 && w*$scale < 4.2e-7
    model m_sky130_fd_pr__special_pfet_01v8_hvt__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=4.075605e-09 + mc_mm_switch * 0 * (4.23e-9 * 0.9635 * (sky130_fd_pr__special_pfet_01v8_hvt__toxe_slope / sqrt(l * w * mult))) toxm=4.23e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=-1.3156e-8 lint=-8.1325e-9 vth0=9.612074778e-01 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__vth0_slope / sqrt(l * w * mult)) lvth0=-3.972363322e-07 wvth0=-8.993117806e-07 pvth0=1.765034266e-13 k1=-1.820663869e+00 lk1=5.244804765e-07 wk1=8.949482650e-07 pk1=-1.756470212e-13 k2=1.570841132e-03 lk2=-2.737854379e-08 wk2=8.815870511e-08 pk2=-1.730246826e-14 k3=-13.778 k3b=2.0 w0=0.0 dvt0=4.05 dvt1=0.3 dvt2=0.03 dvt0w=-4.254 dvt1w=1147200.0 dvt2w=-0.00896 dsub=6.812528741e+00 ldsub=-1.207106892e-06 wdsub=-2.311512125e-06 pdsub=4.536689273e-13 minv=0.0 voffl=0.0 lpe0=0.0 lpeb=0.0 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.0 cit=1.0e-5 voff=3.991766327e+00 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__voff_slope / sqrt(l * w * mult)) lvoff=-8.522401940e-07 wvoff=-1.888280002e-06 pvoff=3.706032746e-13 nfactor=-1.035637660e+01 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__nfactor_slope / sqrt(l * w * mult)) lnfactor=2.655559853e-06 wnfactor=5.453341069e-06 pnfactor=-1.070299985e-12 eta0=8.304765258e+00 leta0=-1.533764903e-06 weta0=-3.487823512e-06 peta0=6.845376816e-13 etab=4.529799288e-01 letab=-8.890533237e-08 wetab=-2.006426673e-07 petab=3.937913310e-14 u0=-4.022000678e-02 lu0=8.719211341e-09 wu0=1.897757190e-08 pu0=-3.724633148e-15 ua=-3.838169482e-09 lua=3.597177269e-16 wua=7.018188546e-16 pua=-1.377424775e-22 ub=-6.681557303e-18 lub=1.704970974e-24 wub=3.768851024e-24 pub=-7.396935462e-31 uc=-3.838682792e-10 luc=7.539055223e-17 wuc=2.194742047e-16 puc=-4.307510479e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=2.212857852e+06 lvsat=-4.123448854e-01 wvsat=-8.483246505e-01 pvsat=1.664964375e-7 a0=1.849664763e+00 la0=-1.341176413e-07 wa0=9.408658508e-08 pa0=-1.846590362e-14 ags=1.249999985e+00 lags=2.930155674e-15 wags=6.663256613e-15 pags=-1.307763675e-21 a1=0.0 a2=-8.824942107e+00 la2=1.820836380e-06 wa2=3.691368309e-06 pa2=-7.244864011e-13 b0=0.0 b1=0.0 keta=-1.583060888e+00 lketa=3.051610943e-07 wketa=6.667810102e-07 pketa=-1.308657750e-13 dwg=-5.722e-9 dwb=-1.7864e-8 pclm=2.014970397e+00 lpclm=-2.332238735e-07 wpclm=-3.048570274e-08 ppclm=5.983276449e-15 pdiblc1=9.939370838e-02 lpdiblc1=1.734479016e-08 wpdiblc1=1.000998774e-07 ppdiblc1=-1.964610244e-14 pdiblc2=6.397470244e-02 lpdiblc2=-1.124211689e-08 wpdiblc2=-1.817250159e-08 ppdiblc2=3.566626025e-15 pdiblcb=-9.722820553e+00 lpdiblcb=1.864089751e-06 wpdiblcb=4.934673143e-06 ppdiblcb=-9.685036244e-13 drout=9.875979995e-01 ldrout=2.062019073e-09 wdrout=6.774321548e-15 pdrout=-1.329562238e-21 pscbe1=1.293148691e+09 lpscbe1=-9.679400029e+01 wpscbe1=-2.201889440e+02 ppscbe1=4.321538309e-5 pscbe2=1.583191728e-08 lpscbe2=-1.278555580e-15 wpscbe2=-3.288925542e-15 ppscbe2=6.455009714e-22 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=531.92 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=-0.32348 prwg=0.02 wr=1.0 alpha0=1.0e-10 alpha1=1.0e-10 beta0=2.297034939e+01 lbeta0=-2.725166000e-06 wbeta0=-4.457550399e-06 pbeta0=8.748611290e-13 agidl=-1.515150809e-07 lagidl=3.031143249e-14 wagidl=6.592771690e-14 pagidl=-1.293930336e-20 bgidl=1.000000010e+09 lbgidl=-2.039252281e-06 wbgidl=-4.637317657e-06 pbgidl=9.101424217e-13 cgidl=300.0 egidl=0.1 toxref=4.23e-9 dlcig=0.0 aigbacc=0.43 bigbacc=0.054 cigbacc=0.075 nigbacc=1.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=3.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=1.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=1.0675e-9 dwc=-2.252e-8 xpart=0.0 cgso=5.47296e-11 cgdo=5.47296e-11 cgbo=0.0 cgdl=6.932416e-12 cgsl=6.932416e-12 clc=1.0e-7 cle=0.6 cf=1.2e-11 ckappas=0.6 vfbcv=-0.1446893 acde=0.552 moin=14.504 noff=4.0 voffcv=-0.1375 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.88 noia=1.2e+41 noib=2.0e+25 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-6.0e-8 af=1.0 kf=0.0 tnoia=1.5 tnoib=3.5 rnoia=0.577 rnoib=0.37 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=2.17e-5 jsws=8.2e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=12.8 xjbvs=1.0 pbs=0.6587 cjs=0.0006938237703 mjs=0.34629 pbsws=0.7418 cjsws=8.8756087e-11 mjsws=0.26859 pbswgs=1.3925 cjswgs=2.37179002e-10 mjswgs=0.70393 tnom=30.0 kt1=6.379164807e-01 lkt1=-2.314035949e-07 wkt1=-5.731658334e-07 pkt1=1.124923923e-13 kt2=1.131417442e+00 lkt2=-2.303661305e-07 wkt2=-5.079194445e-07 pkt2=9.968680977e-14 at=4.302022427e+03 lat=1.977153543e-02 wat=2.128918125e-01 pat=-4.178321157e-8 ute=-1.876135489e+00 lute=2.848012187e-07 wute=-4.365889872e-15 pute=8.568714627e-22 ua1=-1.881882971e-10 lua1=9.450518858e-17 wua1=-1.146674951e-15 pua1=2.250521593e-22 ub1=4.304954223e-18 lub1=-8.342008745e-25 wub1=-2.049391172e-25 pub1=4.022237583e-32 uc1=-9.841078859e-10 luc1=1.816968155e-16 wuc1=4.736713851e-16 puc1=-9.296511440e-23 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2556 tpb=0.0019551 tcj=0.0012407 tpbsw=0.00014242 tcjsw=0.0 tpbswg=0.0 tcjswg=2.0e-12 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=2.65e-8 lkvth0=0.0 wkvth0=2.5e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=4.5e-8 lku0=0.0 wku0=2.5e-7 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.4 steta0=0.0 type=-1
@end

ends // sky130_fd_pr__special_pfet_01v8_hvt
